US08026261B2
Preparation of 2-Difluoromethyl-5-hydroxy-1H-pyridin-4-one
5-Benzyloxy-2-difluoromethyl-1H-pyridin-4-one (300 mg, 1.19 mmol) was dissolved in methanol (20 mL) to give clear a yellow solution. Pd/C (55 mg) was added at RT. After purging with hydrogen gas, the mixture was hydrogenated at 50 psi H2 pressure for 15 min. The reaction mixture was filtered through a short pre-treated CELITE™ bed. The filtrate was collected, and the solvent was removed in vacuo to give the title compound as an off-white solid (170 mg, 88%) with an HPLC purity (peak percent area) of 98.8%. HPLC Method 1 is used (see Example 1). 1H NMR (300 MHz, DMSO-D6) δ (ppm): 10.3 (br s, 1H), 7.97 (s, 1H), 6.98 (s, 1H), 6.72 (t, J=55.4 Hz, 1H); MS (m/z) 162.2 [M+1]+, 142.1 (100%).

reactant | 5-Benzyloxy-2-difluoromethyl-1H-pyridin-4-one | 1.19 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C(C=C(NC1)C(F)F)=O | C13H11F2NO2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 55 mg | [Pd] | Pd
product | 2-Difluoromethyl-5-hydroxy-1H-pyridin-4-one | 170 mg, 88% | FC(C=1NC=C(C(C1)=O)O)F | C6H5F2NO2
